* C:\Users\alunos\Desktop\Gagabiro\EL84\Draft1.asc
V1 N002 0 SINE() AC 1
M2 N003 N002 N001 N001 AO6407
M3 N003 N002 0 0 Si7336ADP
V2 N001 0 10
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\alunos\Documents\LTspiceXVII\lib\cmp\standard.mos
.ac dec 1meg 1 10000g
.backanno
.end
