* TIP41C, MOTOROLA BIPOLAR POWER TRANSISTOR DATA BOOK, 1992.
.SUBCKT TIP41C 1 2 3
* TERMINALS: C B E
* 100 Volt 6 Amp SiNPN Power Transistor 08-03-1995
Q1 1 2 3 QPWR .67
Q2 1 4 3 QPWR .33
RBS 2 4 18.5
.MODEL QPWR NPN (IS=442F NF=1 BF=130 VAF=180 IKF=2 ISE=297P NE=2 BR=4
NR=1 VAR=20 IKR=3 RE=.121 RB=.487 RC=48.7M XTB=1.5 CJE=200P VJE=.6
MJE=.3 CJC=130P VJC=.22 MJC=.2 TF=26.5N TR=1.02U)
.ENDS

* TIP42C, MOTOROLA BIPOLAR POWER TRANSISTOR DATA BOOK, 1992.
.SUBCKT TIP42C 1 2 3
* TERMINALS: C B E
* 100 Volt 6 Amp SiPNP Power Transistor 08-03-1995
Q1 1 2 3 QPWR .67
Q2 1 4 3 QPWR .33
RBS 2 4 18.5
.MODEL QPWR PNP (IS=442F NF=1 BF=130 VAF=180 IKF=2 ISE=297P NE=2 BR=4
NR=1 VAR=20 IKR=3 RE=.121 RB=.487 RC=48.7M XTB=1.5 CJE=200P VJE=.6
MJE=.3 CJC=130P VJC=.22 MJC=.2 TF=26.5N TR=1.02U)
.ENDS
