* C:\Users\alunos\Desktop\Gagabiro\power_supply\Draft3.asc
V1 N001 N003 SINE(0 390 60) AC 1
R1 N002 0 1900
D1 0 N001 D
D2 0 N003 D
D3 N001 N002 D
D4 N003 N002 D
C1 N002 0 220µ
.model D D
.lib C:\Users\alunos\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 2 0 10u
.backanno
.end
