* C:\Users\alunos\Desktop\Gagabiro\power_supply\maida.asc
Q1 IN N001 N002 0 2SCR346P
Q2 IN N002 N003 0 2SCR346P
XU1 N006 N007 LM329
R1 N001 IN 100k
R2 N003 N002 1k
R3 N005 N003 10
XU2 N005 N006 OUT LM317T
D1 OUT N001 BZX84C6V2L
D2 N004 OUT 1N4148
R4 N004 N006 100
R5 N006 OUT 1.5k
R6 OUT N007 1k
R7 N007 N009 36k
C1 N004 0 1µ
C2 N008 0 1µ
R8 N008 OUT 2.7
V1 IN 0 SINE(370 15 120) AC 1
R9 OUT 0 1500
R10 N007 N009 36k
R11 N009 0 36k
R12 N009 0 36k
.model D D
.lib C:\Users\alunos\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\alunos\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 2 0 10u
* Output voltage in a regular LM317 circuit is a function of the ADJ voltage (1.25V between out and ADJ pin)\nA VKL in the ADJ node will equal the voltage in R1 subtracted the voltage drop due to the ADJ current in R2\nto the ADJ voltage. \nOn the other hand, for the maida circuit the ADJ voltage will be added with the zenner voltage and the ADJ\ncurrent with the zenner current. For this circuit, thus, the voltage on the output is:\n \nVOUT=(1,25 + Vzenner) * (1 + R2/R1) + (IADJ + LM329) * R2
* .step param load 3000 0.1 -100
.lib Reguladores.lib
.backanno
.end
